US08557843B2
Ethyl 6-bromo-4-[(4-methoxyphenyl)amino]quinoline-3-carboxylate (0.25 g, 0.623 mmol) was added to THF followed by Herrmann's palladacycle (trans-di(μ-acetato)-bis[o-(di-o-tolylphosphino)benzyl]dipalladium(H), 0.031 mmol), [(t-Bu)3PH]BF4 (tri tertiarybutyl phosphonium tetrafluoroborate, 0.125 mmol), Mo(CO)6 (molybdenum hexacarbonyl, 1.246 mmol), methylamine (1.5 equiv., 2N in THF) and DBU (1,8-diazabicyclo[5.4.0]undec-7-ene, 1.869 mmol). The reaction mixture was irradiated at 130° C. for 5 minutes in a microwave reactor. The reaction mixture was concentrated and then purified on column (silica gel, dichloromethane/methanol 98:2) to give 0.25 g (71%) of ethyl 4-[(4-methoxyphenyl)amino]-6-(methylcarbamoyl)quinoline-3-carboxylate. 1H NMR (300 MHz, CDCl3) δ10.96 (s, 1H, —NH—) 9.24 (s, 1H, aromatic), 8.14-7.98 (m, 2H, aromatic), 7.73 (s, 1H, aromatic), 7.16 (d, 2H, J=9 Hz, aromatic), 6.98 (d, 2H, J=9 Hz, aromatic), 4.46 (q, 2H, J=7 Hz, —CH2—), 3.87 (s, 3H, —OCH3), 1.48 (t, 3H, J=7 Hz, —CH3); LC-MS (m/z) 380.0 (M+1).

reactant | Ethyl 6-bromo-4-[(4-methoxyphenyl)amino]quinoline-3-carboxylate | 0.623 mmol, 0.25 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)OC | C19H17BrN2O3
reactant | [(t-Bu)3PH]BF4 | 0.125 mmol | [B-](F)(F)(F)F.CC(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | methylamine | 2N, 1.5 equiv. | CN | CH5N
reactant | DBU | 1.869 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | C1CCOC1 | C4H8O
catalyst | Herrmann's palladacycle | 0.031 mmol | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | ethyl 4-[(4-methoxyphenyl)amino]-6-(methylcarbamoyl)quinoline-3-carboxylate | 0.25 g, 71% | COC1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C(NC)=O)C(=O)OCC | C21H21N3O4
